US04371644
1,2,3-Tris[3-(4-benzoyloxy-2,2,6,6-tetramethylpiperidino)-2-hydroxypropoxy]propane (Compound No. 115)
A mixture of 10.1 g of 4-benzoyloxy-2,2,6,6-tetramethylpiperidine and 2.6 g of glycerol tris(2,3-epoxypropyl)ether was reacted following the procedure described in Example 5 to give the desired Compound No. 115 in the form of a white vitreous solid having an Rf value of 0.87 on thin-layer chromatography on silica gel developed with a 4:1 by volume mixture of ethyl acetate and triethylamine.

reactant | 4-benzoyloxy-2,2,6,6-tetramethylpiperidine | 10.1 g | C(C1=CC=CC=C1)(=O)OC1CC(NC(C1)(C)C)(C)C | C16H23NO2
reactant | glycerol tris(2,3-epoxypropyl)ether | 2.6 g | O1C(COCC(OCC2CO2)COCC2CO2)C1 | C12H20O6
product | 1,2,3-Tris[3-(4-benzoyloxy-2,2,6,6-tetramethylpiperidino)-2-hydroxypropoxy]propane | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)CC(COCC(COCC(CN1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C)O)OCC(CN1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C)O)O)(C)C | C60H89N3O12
